US08530491B2
a) 3-(quinolin-4-yloxy)propan-1-ol
A suspension of quinolin-4-ol (1.35 g, 9.30 mmol), anhydrous potassium carbonate (3.73 g, 26 mmol) and potassium iodide (4.23 g) in anhydrous DMF (8 mL) was stirred at 25° C. for 30 minutes. 3-Chloropropanol (2.93 g, 31 mmol) was added and the reaction was stirred until the starting material was consumed. The reaction was diluted with dichloromethane and extracted with water. The product was obtained as a slightly yellow solid (0.5298 g, 28%) after evaporation of the dichloromethane layer, and was used for the next step without further purification. 1H NMR (400 MHz, CDCl3): 2.09 (2H, m), 3.93 (2H, t, J=5.6 Hz), 4.10 (2H, t, J=5.6 Hz), 4.51 (11H, s), 6.25 (1H, d, J=5.5 Hz), 7.32 (1H, t, J=7.4 Hz), 7.56 (1H, t, J=8.2 Hz), 7.90 (1H, d, J=8.4 Hz), 7.93 (1H, d, J=8.4 Hz), 8.36 (1H, d, J=5.3 Hz).

reactant | quinolin-4-ol | 9.30 mmol, 1.35 g | N1=CC=C(C2=CC=CC=C12)O | C9H7NO
reactant | potassium carbonate | 26 mmol, 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.23 g | [I-].[K+]
reactant | 3-Chloropropanol | 31 mmol, 2.93 g | ClCCCO | C3H7ClO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(quinolin-4-yloxy)propan-1-ol | 0.5298 g, 28% | N1=CC=C(C2=CC=CC=C12)OCCCO | C12H13NO2
